*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents



* voltage source
Vac Vin 0 dc 0 ac 1 sin(0 230 50)

* 'transformer'
F1 Vin 0 E2 '13.115/230'
E2 va vb Vin 0 '13.115/230'

* bridge rectifier
Db1 va ve Default
Db2 vb ve Default
Db3 0 vb Default
Db4 0 va Default

Cc ve 0 1u

* voltage regulator
Rr ve vreg 0.1k
Dr vreg 0 Nx

*low-pass
Rlp vreg vo 0.01k
Clp vo 0 0.2u

.model Default D
.model Nx D(N=25)




.tran 2e-4 0.4 0.2

.control
run

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0


let xC = 1
let xR = 0.1
let xClp = 0.2
let xRlp = 0.01

let averageve = mean(ve)
let rippleve = maximum(ve)-minimum(ve)

let averagevreg = mean(vreg)
let ripplevreg = maximum(vreg)-minimum(vreg)

let averagevo = mean(vo)
let ripplevo = maximum(vo)-minimum(vo)


let average0 = abs(averagevo-12)
let cost = '(25+4)*0.1 + xC+xClp + xR+xRlp'
let merit = '1 / (cost * (ripplevo + average0 + 10^(-6)))'

let deviationPerc = average0/12*100
let ripplePerc = ripplevo/averagevo*100

print average0

echo  "t3-lp_TAB"
print averageve
print rippleve
print averagevreg
print ripplevreg
print averagevo
print ripplevo
print deviationPerc
print ripplePerc
print merit
echo  "t3-lp_END"


hardcopy dc-24-5-lp.ps ve vreg vo vo-12
echo dc-24-5-lp_FIG


quit
.endc

.end
