*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents



.param xC=1u
.param xR=0.1k
*.param xD=17

* voltage source
Vac T1 T0 dc 0 ac 1 sin(0 13.115 50)

* bridge rectifier
*Db1 T1 1 Default
*Db2 T0 1 Default
Db1 T1 vo Default
Db2 T0 vo Default

Db3 0 T0 Default
Db4 0 T1 Default

*Cc 1 0 xC
Cc vo 2 xC

* voltage regulator
*Rr 1 vo xR
Rr 2 0 xR
Dr vo 0 Nx

.model Default D
.model Nx D(N=25)




.tran 2e-4 0.4 0.2
.measure tran media AVG v(vo) from=.2 to=.4
.measure tran media0 param='abs(media-12)'
.measure tran maxvo MAX v(vo) from=.2 to=.4
.measure tran minvo MIN v(vo) from=.2 to=.4
.measure tran ripple param='maxvo - minvo'

.measure tran cost param='(25+4)*0.1 + (xC)*10^6 + (xR)*10^(-3)'
.measure tran merit param='1 / (cost * (ripple + media0 + 10^(-6)))'

.control
run

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0



let vo = v(vo)

hardcopy dc-20-5.ps (vo-12) vo abs(v(T1,T0))
echo dc-20-5_FIG


quit
.endc

.end
