*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents


* components
.inc incl/data.inc
Vs 1 0 0
C 6 8 1e-6 IC=8V

.op

.end

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo  "op3_TAB"
print all
echo  "op3_END"



echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-4 20e-3 0 .IC

hardcopy trans.ps v(6) v(8)
echo trans_FIG



quit
.endc

.end
