*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents



.param xC=6u
.param xR=3k
*.param xD=17


* voltage source
Vs 1 0 dc 10
Da 1 a Default
Db a 2 Default
R2 2 0 1k


.model Default D
.model N17 D(N=17)




.op
.control
run

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0


op
print all


quit
.endc

.end
