*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents


* voltage source
Vac Vin 0 dc 0 ac 1 sin(0 230 50)

* 'transformer'
F1 Vin 0 E2 '10/230'
E2 v1 0 Vin 0 '10/230'

R1 v1 0 1k



.control
run

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

tran 2e-4 0.4 0.2

hardcopy test-transf.ps v(v1)
echo test-transf_FIG



quit
.endc

.end
