
* forces current values to be saved
.options savecurrents

* components
VA 1 0 25
R1 2 1 1k
R2 2 3 10k
R3 2 0 3k
IB 0 3 10m

.op

.end

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

print all

quit
.endc

