*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

* components
VA va 0 dc 0 ac 1 sin(0 40 1k 0 0 120)
R1 2 va 1k
R2 2 vc 0
R3 0 2 3k
CB vc 0 20u
*IC=7.5


.op


.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0


echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-5 .5 .495
*tran 1e-5 5m 

let vr3 = -v(2)

hardcopy ex5.ps vc vr3
*hardcopy ex5.ps va vc 
echo ex5_FIG

tf v(2,va) va
print all

quit
.endc

